US07772256B2
c) [6-Fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-carbamic acid tert-butyl ester
To a stirred solution of 6-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-ylamine (220 mg, 0.853 mmol) in THF (10 mL) at 0° C. NaHMDS (1.02 mL. 1.02 mmol, 1M solution in THF) was added and stirred for 15 minutes. This was followed by addition of di-tert-butyl dicarbonate (262 mg, 1.2 mmol) in THF (5 mL) over a period of 5 minutes. The reaction mixture was stirred for 2 hours at room temperature. EtOAc and saturated aqueous NaHCO3 were added and the layers were separated. The organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was purified by flash column chromatography using 10% ethyl acetate in hexane to give title compound (81 mg) as an off-white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ: 8.31-8.38 (m, 1 H) 7.93 (dd, J=8.60, 1.56 Hz, 1 H) 7.41 (d, J=8.99 Hz, 1 H) 7.16 (s, 1 H) 7.10 (d, J=3.52 Hz, 1 H) 7.06 (d, J=2.74 Hz, 1 H) 6.92 (dd, J=8.99, 2.74 Hz, 1 H) 3.87 (s, 3 H) 1.55 (s, 9 H)

reactant | 6-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-ylamine | 0.853 mmol, 220 mg | FC1=C(C=CC(=N1)N)C=1OC2=C(C1)C=C(C=C2)OC | C14H11FN2O2
reactant | NaHMDS | 1.02 mmol, 1M, 1.02 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-tert-butyl dicarbonate | 1.2 mmol, 262 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [6-Fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 81 mg | C(C)(C)(C)OC(NC1=NC(=C(C=C1)C=1OC2=C(C1)C=C(C=C2)OC)F)=O | C19H19FN2O4
